### PR TITLE
[Merged by Bors] - feat: remove measurable assumptions in Azuma-Hoeffding inequality

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by RemyDegenne** [comment]
Thanks for doing this!
I was thinking that we could perhaps weaken the measurability assumption at the `Kernel.IndepFun` level, by using `AEMeasurable f (κ ∘ₘ μ)` (which implies in particular that `μ`-a.e., we have `κ .`-a.e. equality to the measurable function).
But I did not do anything in that direction yet. That's just the way I wanted to try it.

**Comment by EtienneC30** [comment]
> Thanks for doing this! I was thinking that we could perhaps weaken the measurability assumption at the `Kernel.IndepFun` level, by using `AEMeasurable f (κ ∘ₘ μ)` (which implies in particular that `μ`-a.e., we have `κ .`-a.e. equality to the measurable function). But I did not do anything in that direction yet. That's just the way I wanted to try it.

That's what I had in mind to.

**Comment by sgouezel** [comment]
Don't hesitate to push to the branch!

**Review by EtienneC30 — COMMENTED** [review]
Thanks for this! I left a few suggestions.

**Comment by RemyDegenne** [comment]
There is an issue with the kernel generalization: to get the necessary `Measure.ae_ae_of_ae_comp` we have to import Kernel.Composition.MeasureComp, which imports Bochner integrals, and those are not allowed to be imported in Independence.Basic.
I removed the `assert_not_exists` for now but that's not the right solution. We'll need to cut some files to separate Bochner integrals first.

Apart from that, it seems to go well. I did not generalize all results but I pushed a few lemmas.

File: Mathlib/Probability/Independence/Kernel.lean [hunk 1]
```diff
@@ -1126,12 +1210,44 @@ lemma iIndepFun.indepFun_mul_left (hf_indep : iIndepFun f κ μ)
...
+    IndepFun (f i * f j) (f k) κ μ := by
+  have h : IndepFun ((hf_meas i).mk (f i) * (hf_meas j).mk (f j)) ((hf_meas k).mk (f k)) κ μ := by
+    refine iIndepFun.indepFun_mul_left ?_ (fun i ↦ (hf_meas i).measurable_mk) _ _ _ hik hjk
+    exact iIndepFun.congr' hf_indep fun i ↦ Measure.ae_ae_of_ae_comp (hf_meas i).ae_eq_mk
+  refine IndepFun.congr' h ?_ ?_
+  · filter_upwards [Measure.ae_ae_of_ae_comp (hf_meas i).ae_eq_mk,
+      Measure.ae_ae_of_ae_comp (hf_meas j).ae_eq_mk] with a hi hj
+    filter_upwards [hi, hj] with ω hωi hωj
+    simp only [Pi.mul_apply]
+    rw [← hωi, ← hωj]
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Kernel.lean:1225]:
```suggestion
    simp [hωi, hωj]
```

File: Mathlib/Probability/Independence/Kernel.lean [hunk 2]
```diff
@@ -1126,12 +1210,44 @@ lemma iIndepFun.indepFun_mul_left (hf_indep : iIndepFun f κ μ)
...
+    refine iIndepFun.indepFun_mul_right ?_ (fun i ↦ (hf_meas i).measurable_mk) _ _ _ hij hik
+    exact iIndepFun.congr' hf_indep fun i ↦ Measure.ae_ae_of_ae_comp (hf_meas i).ae_eq_mk
+  refine IndepFun.congr' h ?_ ?_
+  · filter_upwards [Measure.ae_ae_of_ae_comp (hf_meas i).ae_eq_mk] with a hi
+    filter_upwards [hi] with ω hω using by rw [hω]
+  · filter_upwards [Measure.ae_ae_of_ae_comp (hf_meas j).ae_eq_mk,
+      Measure.ae_ae_of_ae_comp (hf_meas k).ae_eq_mk] with a hj hk
+    filter_upwards [hj, hk] with ω hωj hωk
+    simp only [Pi.mul_apply]
+    rw [← hωj, ← hωk]
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Kernel.lean:1249]:
```suggestion
    simp [hωj, hωk]
```

File: Mathlib/Probability/Independence/Kernel.lean [hunk 3]
```diff
@@ -1140,6 +1256,27 @@ lemma iIndepFun.indepFun_mul_mul (hf_indep : iIndepFun f κ μ)
...
+  have h : IndepFun ((hf_meas i).mk (f i) * (hf_meas j).mk (f j))
+      ((hf_meas k).mk (f k) * (hf_meas l).mk (f l)) κ μ := by
+    refine iIndepFun.indepFun_mul_mul ?_ (fun i ↦ (hf_meas i).measurable_mk) _ _ _ _ hik hil hjk hjl
+    exact iIndepFun.congr' hf_indep fun i ↦ Measure.ae_ae_of_ae_comp (hf_meas i).ae_eq_mk
+  refine IndepFun.congr' h ?_ ?_
+  · filter_upwards [Measure.ae_ae_of_ae_comp (hf_meas i).ae_eq_mk,
+      Measure.ae_ae_of_ae_comp (hf_meas j).ae_eq_mk] with a hi hj
+    filter_upwards [hi, hj] with ω hωi hωj
+    simp only [Pi.mul_apply]
+    rw [← hωi, ← hωj]
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Kernel.lean:1273]:
```suggestion
    simp [hωi, hωj]
```

File: Mathlib/Probability/Independence/Kernel.lean [hunk 4]
```diff
@@ -1140,6 +1256,27 @@ lemma iIndepFun.indepFun_mul_mul (hf_indep : iIndepFun f κ μ)
...
+  · filter_upwards [Measure.ae_ae_of_ae_comp (hf_meas k).ae_eq_mk,
+      Measure.ae_ae_of_ae_comp (hf_meas l).ae_eq_mk] with a hk hl
+    filter_upwards [hk, hl] with ω hωk hωl
+    simp only [Pi.mul_apply]
+    rw [← hωk, ← hωl]
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Kernel.lean:1278]:
```suggestion
    simp [hωk, hωl]
```

**Review by EtienneC30 — COMMENTED** [review]
Just some shortening

**Comment by RemyDegenne** [comment]
I generalized more lemmas to aemeasurable in the kernel file. It looks good to me now.

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 5]
```diff
@@ -7,6 +7,7 @@ import Mathlib.MeasureTheory.Constructions.ProjectiveFamilyContent
 import Mathlib.MeasureTheory.Function.FactorsThrough
 import Mathlib.MeasureTheory.Measure.ProbabilityMeasure
 import Mathlib.MeasureTheory.OuterMeasure.OfAddContent
+import Mathlib.Probability.Kernel.Composition.IntegralCompProd
 import Mathlib.Probability.Kernel.Composition.MeasureComp
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean:11]: This one can be removed.
```suggestion
```

File: Mathlib/Probability/Moments/SubGaussian.lean [hunk 6]
```diff
@@ -536,8 +545,9 @@ lemma add_of_indepFun {Y : Ω → ℝ} {cX cY : ℝ≥0} (hX : HasSubgaussianMGF
       · exact hY.mgf_le t
     _ = exp ((cX + cY) * t ^ 2 / 2) := by rw [← exp_add]; congr; ring
 
-lemma sum_of_iIndepFun {ι : Type*} {X : ι → Ω → ℝ} (h_indep : iIndepFun X μ) {c : ι → ℝ≥0}
-    (h_meas : ∀ i, Measurable (X i))
+private lemma sum_of_iIndepFun_of_forall_aemeasurable
```
Comment (EtienneC30) [inline Mathlib/Probability/Moments/SubGaussian.lean:548]: It seems to weird to me to have this auxiliary result. If we replace
```lean
theorem iIndepFun.indepFun_finset (S T : Finset ι) (hST : Disjoint S T)
    (hf_Indep : iIndepFun f κ μ) (hf_meas : ∀ i, Measurable (f i)) :
    IndepFun (fun a (i : S) => f i a) (fun a (i : T) => f i a) κ μ := by
```
by
```lean
theorem iIndepFun.indepFun_finset [DecidableEq ι] (S T : Finset ι) (hST : Disjoint S T)
    (hf_Indep : iIndepFun f κ μ) (hf_meas : ∀ i ∈ S ∪ T, Measurable (f i)) :
    IndepFun (fun a (i : S) => f i a) (fun a (i : T) => f i a) κ μ := by
```
in `Independence.Kernel` we should be able to directly get `sum_of_iIndepFun` without this auxiliary result.

**Review by EtienneC30 — COMMENTED** [review]
I have a few remarks.

File: Mathlib/Probability/Moments/SubGaussian.lean (hunk 6 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Moments/SubGaussian.lean:548]: Yes, I started doing that, but it got painful quickly and I gave up. For a next PR?

Comment (EtienneC30) [reply Mathlib/Probability/Moments/SubGaussian.lean:548]: All right.

**Comment by EtienneC30** [comment]
Looks good to me, thank you for this!
maintainer merge
